US08476300B2
Synthesis of 1-(2-(4-(6-methoxy-2-(5-methylthiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine hydrochloride
Suspend 6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate (398.8 g; 758.8 mmol), 5-Methyl-2-thiopheneboronic Acid (224 g; 1.58 mol), and cesium fluoride (300 g; 1.97 mol) in acetonitrile (12 L). Degas the resulting suspension via gas inlet tube for 30 minutes while heating to 50° C. Treat the mixture with tricyclohexylphosphine (8 g; 28.5 mmol) and degas for 10 minutes, then treat with palladium (II) acetate (4 g; 17.8 mmol), degas for an additional 5 minutes, and stir overnight at 80° C. Add tricyclohexylphosphine (8 g; 28.5 mmol) and palladium (II) acetate (4 g; 17.8 mmol) and heat the mixture for an additional 8 hours, then allow the solution to slowly cool overnight. Filter the cooled solution through a large glass frit and concentrate the filtrate. Slurry the residue and filter cake in water (4 L) and ethyl acetate (8 L), then transfer to a separatory funnel and treat with saturated aqueous sodium bicarbonate (300 g; 3.57 mol). Stir vigorously for 10 minutes, then separate the layers. Wash the organic layer with saturated aqueous sodium bicarbonate, brine, and dry over MgSO4 overnight. Filter the mixture, and treat the filtrate with HCl (4N in dioxane, 200 mL, 800 mmol). Stir the resulting slurry 60 minutes; then filter to obtain the title compound (352 g; 690.06 mmol). LRMS (m/z): 474 (M+1-HCl).

reactant | 6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate | 758.8 mmol, 398.8 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(C=C1)OCCN1CCCCC1)(F)F | C25H26F3NO6S
reactant | 5-Methyl-2-thiopheneboronic Acid | 1.58 mol, 224 g | CC1=CC=C(S1)B(O)O | C5H7BO2S
reactant | cesium fluoride | 1.97 mol, 300 g | [F-].[Cs+]
reactant | sodium bicarbonate | 3.57 mol, 300 g | C([O-])(O)=O.[Na+]
reactant | HCl | 800 mmol, 4N, 200 mL | Cl | ClH
solvent | acetonitrile | 12 L | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 17.8 mmol, 4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium (II) acetate | 17.8 mmol, 4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tricyclohexylphosphine | 28.5 mmol, 8 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | tricyclohexylphosphine | 28.5 mmol, 8 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
product | 1-(2-(4-(6-methoxy-2-(5-methylthiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine hydrochloride | 690.06 mmol, 352 g | Cl.COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCC2)C=C1)C=1SC(=CC1)C | InChI=1S/C29H31NO3S.ClH/c1-21-6-15-28(34-21)27-13-7-22-20-25(31-2)12-14-26(22)29(27)33-24-10-8-23(9-11-24)32-19-18-30-16-4-3-5-17-30;/h6-15,20H,3-5,16-19H2,1-2H3;1H
